US04017299
Preparation of 3-benzyloxy-6-methylphthalic anhydride
The crude phthalic acid prepared above is heated in 150 ml acetic anhydride for two hours. The solvent is removed under reduced pressure and the crystalline residue collected and washed with ether. The anhydride may be recrystallized from nitromethane to give an analytical sample m.p. 200°-203° C.

reactant | phthalic acid | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-benzyloxy-6-methylphthalic anhydride | C(C1=CC=CC=C1)OC1=C2C(C(=O)OC2=O)=C(C=C1)C | C16H12O4
